US08426411B2
Tris(dibenzylideneacetone)dipalladium(0) (0.250 g, 0.273 mmol) and 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (0.232 g, 0.546 mmol) were combined in 1,4-dioxane (15 mL). The flask was evacuated with some bubbling of solvent and then carefully refilled with nitrogen (3 times). Nitrogen was then bubbled directly into the reaction mixture. The mixture was then heated at about 80° C. for about 10 min and then removed from the heating source. 2-Bromo-6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (1.0 g, 2.73 mmol), tert-butyl hydrazinecarboxylate (0.541 g, 4.10 mmol) and NaOt-Bu (0.501 mL, 4.10 mmol) were added and the reaction was heated at about 80° C. for about 1 h. The reaction was cooled to ambient temperature and the solvents removed under reduced pressure. The black residue was then taken up in EtOAc (50 mL) and filtered. The filtrate was washed with saturated aqueous NH4Cl (50 mL), EDTA (1.0 M aqueous, 50 mL) and saturated aqueous NaHCO3 (50 mL). The solution was dried over anhydrous Na2SO4, filtered, and concd under reduced pressure. The material was purified by chromatography on silica gel (80 g) eluting with 25-100% EtOAc in heptane to provide tert-butyl 2-(6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarboxylate (0.160 g, 14%) as a brown oil: LCMS (Table 1, Method a) Rt=2.51 min; MS m/z: 418 (M+H)+.

reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.546 mmol, 0.232 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | 2-Bromo-6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 2.73 mmol, 1.0 g | BrC=1N=C2C(=NC1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C14H12BrN3O2S
reactant | tert-butyl hydrazinecarboxylate | 4.10 mmol, 0.541 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | NaOt-Bu | 4.10 mmol, 0.501 mL | CC(C)(C)[O-].[Na+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.273 mmol, 0.250 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 2-(6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazinecarboxylate | 0.160 g, 14% | CC1=CC=2C(=NC=C(N2)NNC(=O)OC(C)(C)C)N1S(=O)(=O)C1=CC=C(C)C=C1 | C19H23N5O4S
